US07521461B2
4-(3-Hydroxypropyl)phenol (1.0 g, 6.57 mmol) and methyl 2-(bromomethyl)benzoate (1.66 g, 7.23 mmol) was dissolved in acetonitrile (10 ml). Potassium carbonate (1.82 g, 13.14 mmol) was added and the mixture was stirred at 60° C. for three hours. Polymer supported trisamine (0.3 eqv) was added and the solution was stirred at room temperature over night. The PS-trisamine was filtered of and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic layer was washed with 3 portions of water (3×10 ml). The organic phase was dried (MgSO4) and the solvent was removed by evaporation to give 1.66 gram of methyl 2-{[4-(3-hydroxypropyl)phenoxy]-methyl}benzoate (yield 84.2%).

reactant | 4-(3-Hydroxypropyl)phenol | 6.57 mmol, 1.0 g | OCCCC1=CC=C(C=C1)O | C9H12O2
reactant | methyl 2-(bromomethyl)benzoate | 7.23 mmol, 1.66 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | Potassium carbonate | 13.14 mmol, 1.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | trisamine | 0.3 eqv | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-{[4-(3-hydroxypropyl)phenoxy]-methyl}benzoate | 1.66 gram, yield 84.2% | OCCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C18H20O4
